US05142029
(1) Synthesis of 2-laurylcarbamoyl-1,4-dihydroxynaphthalene
2-phenoxycarbonyl-1,4-dihydroxynaphthalene (28 g) was suspended in acetonitrile (150 ml) and laurylamine (22.2 g) was dropwise added. The resulting mixture was refluxed for 4 hours. After completion of the reaction, the reaction mixture was cooled and the produced crystals were filtered off. (Yield: 26.8 g)

reactant | 2-phenoxycarbonyl-1,4-dihydroxynaphthalene | 28 g | O(C1=CC=CC=C1)C(=O)C1=C(C2=CC=CC=C2C(=C1)O)O | C17H12O4
reactant | laurylamine | 22.2 g | C(CCCCCCCCCCC)N | C12H27N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-laurylcarbamoyl-1,4-dihydroxynaphthalene | C(CCCCCCCCCCC)NC(=O)C1=C(C2=CC=CC=C2C(=C1)O)O | C23H33NO3
